US09126931B2
4-Methoxy-2-(3-trimethylsilanylprop-2-ynyl)-benzoic acid methyl ester
To the THF (16 ml) solution of 2-bromomethyl-4-methoxy-benzoic acid methyl ester (961 mg, 4.09 mmol), triphenylphosphine (107 mg, 0.1 eq.), cesium carbonate (1.87 g, 1.4 eq.), copper iodide (59 mg, 0.076 eq.) and tris(dibenzylideneacetone)dipalladium (86 mg, 0.023 eq.) were added, degassed, flushed with nitrogen gas, added with trimethylsilylacetylene (734 μl, 1.3 eq.), and then stirred overnight at 55° C. To the reaction solution, saturated aqueous solution of ammonium chloride was added followed by extraction with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (brown oily substance, 606 mg, 54%).

reactant | 2-bromomethyl-4-methoxy-benzoic acid methyl ester | 4.09 mmol, 961 mg | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
reactant | triphenylphosphine | 107 mg, 0.1 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium carbonate | 1.87 g, 1.4 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trimethylsilylacetylene | 734 μl, 1.3 eq. | C[Si](C)(C)C#C | C5H10Si
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper iodide | 59 mg, 0.076 eq. | [Cu](I)I
catalyst | tris(dibenzylideneacetone)dipalladium | 86 mg, 0.023 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 4-Methoxy-2-(3-trimethylsilanylprop-2-ynyl)-benzoic acid methyl ester | 606 mg, 54% | COC(C1=C(C=C(C=C1)OC)CC#C[Si](C)(C)C)=O | C15H20O3Si
